US07425560B2
d) 3-Isobutyl-2-thioxanthine
5,6-Diamino-1-isobutyl-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one (0.22 g, 1.0 mmol) was suspended in formic acid (1.5 mL) and this solution was heated at 100° C. for 1 h. Excess formic acid was evaporated off under reduced pressure. 10% Sodium hydroxide (1.5 mL) was added to the orange solid and the resulting solution was heated at 100° C. for 15 minutes. Water was added and the pH of the solution adjusted to pH 4 with dilute acetic acid. The resulting slurry was stirred for 0.5 h at ambient temperature, then the precipitate was collected by filtration and washed with water. Yield: (0.21 g, 90%).

reactant | 5,6-Diamino-1-isobutyl-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | 1.0 mmol, 0.22 g | NC=1C(NC(N(C1N)CC(C)C)=S)=O | C8H14N4OS
reactant | formic acid | 1.5 mL | C(=O)O | CH2O2
product | 3-Isobutyl-2-thioxanthine | C(C(C)C)N1C(NC(C=2NC=NC12)=O)=S | C9H12N4OS
